US06403601B1
(d) 3-(Isopropoxy)-5,6,7,8-tetrahydro-1-naphthalenecarbonyl chloride
To a solution of 3-(isopropoxy)-5,6,7,8-tetrahydro-1-naphthalenecarboxylic acid (0.318 g, 1.36 mmol) in DCM (5 mL) was added oxalyl chloride (0.15 mL, 1.70 mmol) and 2 drops of DMF. The mixture was stirred at room temperature for 3 h. The solvent was removed in vacuo and the 3-(isopropoxy)-5,6,7,8-tetrahydro-1-naphthalenecarbonyl chloride was used without purification.

reactant | 3-(isopropoxy)-5,6,7,8-tetrahydro-1-naphthalenecarboxylic acid | 1.36 mmol, 0.318 g | C(C)(C)OC=1C=C(C=2CCCCC2C1)C(=O)O | C14H18O3
reactant | oxalyl chloride | 1.70 mmol, 0.15 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
product | 3-(Isopropoxy)-5,6,7,8-tetrahydro-1-naphthalenecarbonyl chloride | C(C)(C)OC=1C=C(C=2CCCCC2C1)C(=O)Cl | C14H17ClO2
